US08975406B2
Step (i): (3-Bromo-pyridin-2-yl)-phenyl-acetonitrile
2,3-Dibromo-pyridine (1 eq., 0.5 g) and Phenyl-acetonitrile (4 eq., 0.97 mL) were mixed in NMP (3 mL). Potassium tert-butoxide (1.3 eq, 0.3 g) was added to the solution. The resulting mixture was heated in microwave at 110° C. for 40 min EtOAc and water were added to the reaction mixture. The aqueous layer was separated and extracted with EtOAc (×3). The combined organics were washed with brine, dried (MgSO4) and concentrated in vacuo to afford the title compound as a yellow solid. It was used in the next step without further purification

reactant | 2,3-Dibromo-pyridine | 0.5 g, 1 eq. | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | Phenyl-acetonitrile | 0.97 mL, 4 eq. | C1(=CC=CC=C1)CC#N | C8H7N
reactant | Potassium tert-butoxide | 0.3 g, 1.3 eq | CC(C)([O-])C.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | (3-Bromo-pyridin-2-yl)-phenyl-acetonitrile | BrC=1C(=NC=CC1)C(C#N)C1=CC=CC=C1 | C13H9BrN2
